US07169773B2
1-[2-(6,8-dimethyl-2,3,4,5-tetrahydro-1H-1-benzazepin-1-yl)-2-oxoethyl]-3-(1H-indazol-3-ylmethyl)-5-phenyl-1H-1,5-benzodiazepine-2,4(3H,5H)-dione
A solution of tert-butyl 3-({1-[2-(6,8-dimethyl-2,3,4,5-tetrahydro-1H-1-benzazepin-1-yl)-2-oxoethyl]-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-1H-1,5-benzodiazepin-3-yl}methyl)-1H-indazole-1-carboxylate (64 mg) in methylene chloride (10 mL) was treated with trifluoroacetic acid (1 mL). The reaction was stirred for 3 hours then concentrated to dryness. The residue was chromatographed on silica gel (Hexane:Ethyl Acetate. The residue was triturated with Ethyl Ether and filtered to yield the title compound as an off-white solid (7 mg).

reactant | tert-butyl 3-({1-[2-(6,8-dimethyl-2,3,4,5-tetrahydro-1H-1-benzazepin-1-yl)-2-oxoethyl]-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-1H-1,5-benzodiazepin-3-yl}methyl)-1H-indazole-1-carboxylate | 64 mg | CC1=CC(=CC2=C1CCCCN2C(CN2C(C(C(N(C1=C2C=CC=C1)C1=CC=CC=C1)=O)CC1=NN(C2=CC=CC=C12)C(=O)OC(C)(C)C)=O)=O)C | C42H43N5O5
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-[2-(6,8-dimethyl-2,3,4,5-tetrahydro-1H-1-benzazepin-1-yl)-2-oxoethyl]-3-(1H-indazol-3-ylmethyl)-5-phenyl-1H-1,5-benzodiazepine-2,4(3H,5H)-dione | 7 mg | CC1=CC(=CC2=C1CCCCN2C(CN2C(C(C(N(C1=C2C=CC=C1)C1=CC=CC=C1)=O)CC1=NNC2=CC=CC=C12)=O)=O)C | C37H35N5O3
